US08629157B2
Step 1: Synthesis of (S)-1-(4-trifluoromethyl-phenyl)-pyrrolidine-2-carboxylic acid
A reaction vessel containing L-proline, 4-trifluoromethylbenzenebromide, potassium carbonate and copper iodide is evacuated and purged with argon several times. Dimethylformamide is added and the solution is heated at 90° C. for 4 days in a sealed vessel. After this time, the mixture is cooled to room temperature and diluted with ethyl acetate and water. The two layers are separated and the aqueous is acidified to pH3 using concentrated hydrochloric acid and extracted with ethyl acetate. The combined organics are washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford title compound as intermediate which is used crude in subsequent reactions. ESI m/z 260 [M+H]+

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-trifluoromethylbenzenebromide | [Br-].FC(C1=CC=CC=C1)(F)F
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | copper iodide | [Cu](I)I
product | (S)-1-(4-trifluoromethyl-phenyl)-pyrrolidine-2-carboxylic acid | FC(C1=CC=C(C=C1)N1[C@@H](CCC1)C(=O)O)(F)F | C12H12F3NO2
